US04965257
4-(2,2-Dimethylpropyl)-1-[4-(3-methoxyprop-1-yl)phenyl]-2,6,7-trioxabicyclo[2,2,2]octane
Trimethyl 4-bromo-orthobenzoate (1.5 g.) (McElvain and Venerable, J. Amer.Chem.Soc., 1950,72,1661) was added to 2-(2,2-dimethylpropyl)-2-hydroxymethyl-propan-1,3-diol (1.0 g.). One drop of concentrated hydrochloric acid was added and the mixture was maintained at 140° for one hour, under a current of nitrogen. The volatile components were removed in vacuo (1.0 mm), at 140° C.

reactant | Trimethyl 4-bromo-orthobenzoate | 1.5 g | COC(C1=CC=C(C=C1)Br)(OC)OC | C10H13BrO3
reactant | 2-(2,2-dimethylpropyl)-2-hydroxymethyl-propan-1,3-diol | 1.0 g | CC(CC(CO)(CO)CO)(C)C | C9H20O3
catalyst | hydrochloric acid | One drop | Cl | ClH
product | 4-(2,2-Dimethylpropyl)-1-[4-(3-methoxyprop-1-yl)phenyl]-2,6,7-trioxabicyclo[2,2,2]octane | CC(CC12COC(OC1)(OC2)C2=CC=C(C=C2)CCCOC)(C)C | C20H30O4
